US08895547B2
(4-Benzyloxyphenyl)methanesulfonic acid sodium salt
A mixture of 25.51 g of 4-benzyloxybenzyl chloride and 28.78 g of sodium sulfite in 96 ml of water was stirred at 75° C. for 21 hours. After cooling to room temperature, the reaction solution was stirred with 100 ml of tert-butyl methyl ether, and the solids were filtered off with suction, washed twice with 20 ml of tert-butyl methyl ether, once with 20 ml of ice-water, twice with 20 ml of acetone and twice with 20 ml of dichloromethane. The precipitate was dried in a vacuum drying cabinet at 40° C. overnight. This gave the product (6.20 g) with a molecular weight of 300.3 g/mol (C14H13O4S.Na); MS (ESI): m/e=301 (M+H+).

reactant | 4-benzyloxybenzyl chloride | 25.51 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium sulfite | 28.78 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
solvent | water | 96 ml | O | H2O
product | (4-Benzyloxyphenyl)methanesulfonic acid sodium salt | 6.20 g | [Na+].C(C1=CC=CC=C1)OC1=CC=C(C=C1)CS(=O)(=O)[O-] | InChI=1S/C14H14O4S.Na/c15-19(16,17)11-13-6-8-14(9-7-13)18-10-12-4-2-1-3-5-12;/h1-9H,10-11H2,(H,15,16,17);/q;+1/p-1
